US07906677B2
N-(2′,6′-dichlorophenyl)-N-chloroacetyl-4-methylaniline
Same procedure as example 6a starting from 2,6-dichlorophenol and 2-chloro-N-(4-methylphenyl)acetamide. At the end of the acetylation reaction the mixture was diluted with a small amount of toluene (0.2 part) to prevent solidification.

reactant | 2,6-dichlorophenol | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | 2-chloro-N-(4-methylphenyl)acetamide | ClCC(=O)NC1=CC=C(C=C1)C | C9H10ClNO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2′,6′-dichlorophenyl)-N-chloroacetyl-4-methylaniline | ClC1=C(C(=CC=C1)Cl)N(C1=CC=C(C=C1)C)C(CCl)=O | C15H12Cl3NO
